US04812162
Phenyllithium (10 ml of a 2.0M solution in a 7:3 mixture of cyclohexane and ether, 20 mmol) was added dropwise to zinc chloride (20 ml of a 1.0M solution in ether, 20 mmol) at room temperature. The resulting mixture was stirred for 2 hours, then a solution of 4-iodo-2-nitrotoluene (2.63 g, 10 mmol) in THF (20 ml) and tetrakis(triphenylphosphine)palladium (0.3 g, 0.26 mmol) were added successively. The reaction mixture was stirred for 3 hours then diluted with 0.5M hydrochloric acid (40 ml) and extracted with ether (3×70 ml). The ether extracts were washed with brine, dried, concentrated then purified by column chromatography using petrol (60°-80° C.)-ethyl acetate (9:1) on silica gel to give 4-phenyl-2-nitrotoluene (1.8 g, 85% yield) as a yellow oil.

reactant | Phenyllithium | C1(=CC=CC=C1)[Li]
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | 4-iodo-2-nitrotoluene | 10 mmol, 2.63 g | IC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6INO2
solvent | ether | CCOCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | 0.5M, 40 ml | Cl | ClH
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.26 mmol, 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-phenyl-2-nitrotoluene | 1.8 g, 85% yield | C1(=CC=CC=C1)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C13H11NO2
